US20010027196A1
2-Amino-4-phenethyloxy-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile, 2-phenylethanol and DBU in DME. EI-MS m/e (%): 316 (M+, 4), 212 ([M—PhCH═CH2]+, 100), 184 (28), 170 (20), 104 ([PhCH═CH2]+, 84), 77 (20).

reactant | 2-amino-4-chloro-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)C1=CC=CC=C1 | C11H7ClN4
reactant | 2-phenylethanol | C1(=CC=CC=C1)CCO | C8H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | PhCH═CH2 | C1(=CC=CC=C1)C=C | C8H8
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-phenethyloxy-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCCC1=CC=CC=C1)C#N)C1=CC=CC=C1 | C19H16N4O
